US05618839
4-[2-(1,1-dimethyl-3-phenyl-1H-inden-5-yl)vinyl]benzoic acid (I33 a)
Methyl 4-[2-(1,1-dimethyl-3-phenyl-1H-inden-5-yl)-vinyl]benzoate (294 mg, 0.77 mmol) and 0.77 mL of 10N NaOH in 7 mL of tetrahydrofuran and 5 mL of methanol were stirred at reflux for 1 hour. The mixture was concentrated and acidified with 1N HCl (10 mL), extracted with ethyl acetate (30 mL×2). The combined extracts were washed with water (10 mL), dried over magnesium sulfate, and evaporated. The residue was triturated in hot methanol to give 276 mg (90% yield) of the title compound which contained a molecule of methanol; 1H-NMR (DMSO-d6) δ1.34 (s, 6H), 3.14 (s, 3H), 6.58 (s, 1H), 7.25 (d, J=16.4 Hz, 1H), 7.37-7.71 (m, 11H), 7.90 (d, J=8.3 Hz, 2H); MS m/e 367 (MH+).

reactant | Methyl 4-[2-(1,1-dimethyl-3-phenyl-1H-inden-5-yl)-vinyl]benzoate | 0.77 mmol, 294 mg | CC1(C=C(C2=CC(=CC=C12)C=CC1=CC=C(C(=O)OC)C=C1)C1=CC=CC=C1)C | C27H24O2
reactant | NaOH | 10N, 0.77 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
product | 4-[2-(1,1-dimethyl-3-phenyl-1H-inden-5-yl)vinyl]benzoic acid | 276 mg, 90% yield | CC1(C=C(C2=CC(=CC=C12)C=CC1=CC=C(C(=O)O)C=C1)C1=CC=CC=C1)C | C26H22O2
